US09290485B2
a) 3-Benzyl-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester
To a mixture of N-Hydroxy-2-phenyl-acetamidine (1 g, 6.7 mmol) in 7 mL ethyl acetate was added a solution of Chloro-oxo-acetic acid ethyl ester (1.5 g, 10.7 mmol) in 7 mL ethyl acetate at 0° C. The mixture was stirred for 1.5 h at room temperature and then heated to 80° C. for 2.5 h. The reaction mixture was treated with aq. NaHCO3-solution and extracted with ethyl acetate. The organic layers were dried over MgSO4 and evaporated in vacuo. The crude product was purified by preparative HPLC (Waters Sunfire Prep C18 PBD 5 um, 30×100 mm, 5 to 100% ACN and 0.1% TFA, flow 40ml/min) to yield the title compound. LCMS (method A) RtA=1.938 min; [M+H]+=233.1.

reactant | N-Hydroxy-2-phenyl-acetamidine | 6.7 mmol, 1 g | ONC(CC1=CC=CC=C1)=N | C8H10N2O
reactant | Chloro-oxo-acetic acid ethyl ester | 10.7 mmol, 1.5 g | C(C)OC(C(=O)Cl)=O | C4H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
product | 3-Benzyl-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=NO1)CC1=CC=CC=C1 | C12H12N2O3
